Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
positive blood culture
 
Major Surgical or Invasive Procedure:
___ line ___

 
History of Present Illness:
Mr ___ is a ___ yo gentleman with a history of relapsed AML 
treated with multiple rounds chemotherapy and MRD alloHSCT with 
MAC (D0 ___ complicated by steroid-refractory GI-GVHD, C. 
difficile colitis, CMV viremia, and recent VRE/E.coli bacteremia
with recent admission with multifocal pneumonia, progressive 
cavitary pulmonary nodules, and worsening lower extremity edema 
found to have aspergillosis despite prophylaxis with 
posaconazole with adequate levels, treated with isavuconazole. 
He was admitted ___ for recurrent VRE bacteremia
and discharge on daptomycin.  

Unfortunately his blood culture from ___ returned positive for
GRAM POSITIVE COCCI.  He was contacted by phone and instructed 
to
go to the ED where he started on Linezolid. 

 
Past Medical History:
Past Medical History:
ONCOLOGIC HISTORY:
___ INITIAL BMBX  AML
___ Consented to  protocol ___  INDUCTION DAUNOrubicin  (90 mg/m2)  Cytarabine  (100
mg/m2)  (RHP: +NPM1, +IDH2,+ RAD21)
___  D+14 BMBx ablated, 
___  D+26 remission, NPM1 negative
___ C1D1 HIDAC
___ admitted for fever
___ CT showed perianal abscess, drained, improved with
antibiotics
___ - C2D1 HIDAC, complicated by fevers and rash after 4 
of 6 doses attributed to possible cytarabine syndrome, all
resolved with higher dexamethasone premedication. also received
neulasta on D9
___ - C3D1 HIDAC, complicated by neutropenic fever, 
empiric antibiotics without complications or infectious source
___ - taken off of active study protocol (control arm) due
to patient preference to avoid frequent visits and tests;
consented to be followed by the study for survival/outcome data
___ - initiation of therapy for relapsed AML on trial
___
----lenalidomide 50 mg D1-10
----MEC D4-8
___ - admitted for alloHSC transplant
- Flu/Bu ablation chemotherapy ___
- Allogeneic stem cell transplant ___
- Discharged ___ - Bone marrow biopsy w/no morphologic evidence of AML,
negative NPM1 and myeloid sequencing panels
---- COMPLICATIONS: neutropenic fever, c.diff colitis, SCoN
bacteremia, ___ abscess, steroid-refractory GI-GVHD, C. 
difficile colitis, CMV viremia, and recent VRE/E.coli bacteremia 


PAST MEDICAL HISTORY:
- Recurrent clostridioides colitis
- genital warts
- Hernia s/p mesh ___ years ago

 
Social History:
___
Family History:
Mother had lung cancer
Father had some type of metastatic cancer extensively involving
the bones
No history of any hematologic disorders including leukemia or
lymphoma
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
24 HR Data (last updated ___ @ 1628)
    Temp: 97.7 (Tm 97.7), BP: 164/88, HR: 82, RR: 18, O2 sat: 
98%

GEN: Pleasant. NAD
NEURO: A&Ox3, non-focal
HEENT: No conjunctival pallor. No icterus. MMM. OP clear.  
NECK: Supple. JVP not elevated
LYMPH: No cervical or supraclavicular LAD
CV: Nl rate, regular rhythm. No MRG.   
LUNGS: No incr WOB. CTA
fields. No wheezes, rales, or rhonchi.  
ABD: ND, nl bowel sounds. Tenderness to palpation in the
suprapubic region has now resolved 
EXT: WWP. 1+ edema to the shins bilaterally
SKIN: Right upper extremity with areas of ecchymosis in the
entecubital fossae. No rash or erythema.

DISCHARGE PHSYICAL EXAM:
VSS
GENERAL: Pleasant. NAD
NEURO: A&Ox3, non-focal
HEENT: No conjunctival pallor. No icterus. MMM. OP clear.  
NECK: Supple. JVP not elevated
LYMPH: No cervical or supraclavicular LAD
CV: Nl rate, regular rhythm. No MRG.   
LUNGS: No incr WOB. CTA
fields. No wheezes, rales, or rhonchi.  
ABD: ND, nl bowel sounds. No tenderness. 
EXT: WWP. 1+ edema bilaterally
SKIN: Right upper extremity with areas of ecchymosis in the
entecubital fossae. No rash or erythema.

 
Pertinent Results:
ADMISSION LABORATORY STUDIES:
___ 01:45PM BLOOD WBC: 4.4 RBC: 2.43* Hgb: 8.5* Hct: 25.2*
MCV: 104* MCH: 35.0* MCHC: 33.7 RDW: 23.1* RDWSD: 83.9* Plt Ct:
60* 
___ 05:14AM BLOOD Neuts: 65 Bands: 4 Lymphs: 18* Monos: 7
Eos: 0* Baso: ___ Metas: 6* NRBC: 1.6* AbsNeut: 2.62 AbsLymp: 
0.68*
AbsMono: 0.27 AbsEos: 0.00* AbsBaso: 0.00* 
___ 05:14AM BLOOD Glucose: 110* UreaN: 12 Creat: 0.8 Na: 
137
K: 3.6 Cl: 103 HCO3: 24 AnGap: 10 
___ 05:14AM BLOOD ALT: 16 AST: 22 AlkPhos: 67 TotBili: <0.2 

___ 05:14AM BLOOD Calcium: 7.7* Phos: 3.5 Mg: 1.4* 
___ 01:18PM BLOOD Lactate: 1.2 

___ aspergillus Pending
___ B-Glucan pending. 

___ 06:30AM BLOOD VitB12: 988* Folate: 15 
___ 06:20AM BLOOD Osmolal: 270* 

 MICROBIOLOGY: Reviewed in OMR. 
Pertinent results include:
___ 9:00 am BLOOD CULTURE
  
   Blood Culture, Routine (Preliminary): 
      ENTEROCOCCUS FAECIUM.    FINAL SENSITIVITIES. 
         Daptomycin MIC OF 16 MCG/ML = NON-SUSCEPTIBLE. 
         SENSITIVITIES: MIC expressed in MCG/ML
                     
_________________________________________________________
                             ENTEROCOCCUS FAECIUM
                             |   
AMPICILLIN------------  =>32 R
PENICILLIN G----------  =>64 R
VANCOMYCIN------------ <=0.5 S

   Aerobic Bottle Gram Stain: GPC IN PAIRS AND CHAINS. 
 
___ 1:10 pm BLOOD CULTURE
     Blood Culture, Routine (Pending):    No growth to date. 
 
___ 1:30 pm BLOOD CULTURE
     Blood Culture, Routine (Preliminary): 
      ENTEROCOCCUS FAECIUM. 
      Aerobic Bottle Gram Stain: GPC IN PAIRS AND CHAINS.

___ 6:49 pm CATHETER TIP-IV      Source: PICC. 
   WOUND CULTURE (Final ___:    No significant growth. 
 
___ 9:29 am URINE      Source: ___. 
   URINE CULTURE (Pending): 
 
Imaging CT A&P ___:
1. Persistent inflammatory changes in the terminal ileum, which
may represent graft-versus-host disease or enteritis.
2. Persistent bladder wall thickening and mild surrounding fat
stranding, which is concerning for cystitis.  Correlation with
urinalysis is recommended.
3. Scattered colonic diverticulosis without evidence of
diverticulitis.

DISCHARGE LABS:

___ 12:00AM BLOOD WBC-5.0 RBC-2.28* Hgb-8.0* Hct-24.1* 
MCV-106* MCH-35.1* MCHC-33.2 RDW-21.5* RDWSD-82.1* Plt Ct-72*
___ 12:00AM BLOOD Neuts-56 Bands-10* Lymphs-18* Monos-10 
Eos-0* ___ Myelos-6* NRBC-0.8* AbsNeut-3.30 AbsLymp-0.90* 
AbsMono-0.50 AbsEos-0.00* AbsBaso-0.00*
___ 12:00AM BLOOD Glucose-149* UreaN-12 Creat-0.8 Na-132* 
K-4.6 Cl-96 HCO3-22 AnGap-14
___ 12:00AM BLOOD ALT-20 AST-21 LD(LDH)-395* AlkPhos-77 
TotBili-<0.2
___ 12:00AM BLOOD Albumin-3.0* Calcium-7.9* Phos-3.0 
Mg-1.5*
 
Brief Hospital Course:
Mr. ___ is a ___ yo man w/ relapsed AML s/p
MRD allogeneic HSCT (D0 ___ complicated by
steroid-refractory GI-GVHD, multiple infectious complications
admit with enterococcus bacteremia and found to have progressive
fungal pneumonia. 

ACTIVE ISSUES
========================
#ENTEROCOCCUS BACTEREMIA: Unclear source. Could be gut given
GVHD. TTE ___ neg for vegetations. PICC was pulled and 
cultured.
Repeat CT AP w/ some c/f cystitis so repeated UA and urine cx 
and
negative
- Linezolid ___ IV BID x 6 weeks from first negative blood
culture (D1: ___  
- will f/u with ID outpatient ___

#RECENT MULTIFOCAL PNEUMONIA AND CAVITARY PULMONARY NODULES:
Patient is currently being treated with isavuconazole given c/f
aspergillus. Recent BAL ___ growing mold (described as a
contaminant but ID concerned about true mold infection). Repeat
chest CT ___ shows complete resolution of multifocal
pneumonia. Chest CT also shows short interval density and mild
size increase in multiple bilateral peribronchovascular solid 
and
cavitating nodules as well as appearance of a new nodule in the
left lower lobe with concern for lung involvement from primary
disease. This admission increase in serum aspergillis prompting 
repeating Chest CT which showed increased size of pulmonary
nodules. Discussed with ID and consulted IP for bronch with
biopsies. changed isavuconazole to IV ___ concern may be poor
absorption with history of GVDH while inhouse.
-Can not administer IV isavuconazole 372mg daily outpatient due 
to drug stability, resume po isavuconazole at discharge 
-follow up isavuconazole level. 
-plan for outpatient bronchoscopy with biopsies ___
-ID follow up ___

#AML s/p allogeneic MRD HSCT (Day 0 = ___: 
#THROMBOYCTOPENIA:
AML initially with favorable mutational profile (normal
karyotype; FLT3 negative, NPM1 positive, IDH2 positive, RAD21
positive, CEBPA negative). He relapsed after chemo-consolidation
(7+3, 3C HIDAC & MEC/Revlimid) then underwent an MRD allogeneic
SCT as above. In remission following his transplant with slow
count recovery most likely due to valganciclovir. BMBX during
recent admission showed no evidence of recurrence w/ 100%
chimerism. His immunosuppression agents are:
-Continue Tacrolimus 0.5mg BID; repeat trough ___ <2.0. No
adjustments in light of starting Jakafi. 
-Continue ruxolitinib 5mg PO BID
-prednisone 10mg PO QD, tapered to 7.5mg ___ 
-Continue ACV
-Continue Bactrim SS PO QD

#HYPONATREMIA: noted for Na ___ with lytes indicative of
SIADH likely in setting of persistent pulmonary nodules. rec
1L fluid restriction and monitor outpatient.

#CMV VIREMIA: History of CMV viremia with positive viral load
___ (peak 2.2log), and he completed course of 
valganciclovir
last admission.  CMV VL ND since ___ and was changed ACV at
time of DC last admission. 
- ___ CMV VL negative repeat ___ outpatient

#GI GVHD: Remains on tacrolimus, prednisone, budesonide and 
Jakafi as above.   
-Continue ID prophylaxis with bactrim
-Continue PPI, vitamin D and folic acid supplementation
- clarify tacro target level
- taper pred from 10 mg to 7.5 mg on ___

#Macrocytic anemia: 
B12 and folate ok. Likely med related.  
-transfuse hgb < 7. 

Prophylaxes:
# Access: ___ placed ___
# FEN: regular diet
# Disposition: home with PICC/IV ABX use

# Code status: full
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Budesonide 3 mg PO TID 
2. FoLIC Acid 1 mg PO DAILY 
3. LORazepam 1 mg PO BID: PRN anxiety 
4. Nicotine Patch 21 mg/day TD DAILY 
5. Pantoprazole 40 mg PO Q12H 
6. PredniSONE 10 mg PO DAILY 
7. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
8. Tacrolimus 0.5 mg PO Q12H 
9. Vitamin D ___ UNIT PO 1X/WEEK (WE) 
10. Isavuconazonium Sulfate 372 mg PO DAILY 
11. Acyclovir 400 mg PO Q8H 
12. Jakafi (ruxolitinib) 5 mg oral BID 
13. Magnesium Oxide 800 mg PO BID 

 
Discharge Medications:
1.  Linezolid ___ mg IV Q12H 
RX *linezolid in dextrose 5% 600 mg/300 mL 600 mg iv every 
twelve (12) hours Disp #*60 Intravenous Bag Refills:*1 
2.  PredniSONE 7.5 mg PO DAILY  
3.  Acyclovir 400 mg PO Q8H  
4.  Budesonide 3 mg PO TID  
5.  FoLIC Acid 1 mg PO DAILY  
6.  Isavuconazonium Sulfate 372 mg PO DAILY  
7.  Jakafi (ruxolitinib) 5 mg oral BID  
8.  LORazepam 1 mg PO BID: PRN anxiety  
9.  Magnesium Oxide 800 mg PO BID  
10.  Nicotine Patch 21 mg/day TD DAILY  
11.  Pantoprazole 40 mg PO Q12H  
12.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY  
13.  Tacrolimus 0.5 mg PO Q12H  
14.  Vitamin D ___ UNIT PO 1X/WEEK (WE)  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
VRE Bacteremia
Cavitary pulmonary nodules secondary to aspergillosis

SECONDARY DIAGNOSIS
======================
-Acute myelogenous leukemia
-Graft versus host disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were admitted due to concern for blood stream infection. We 
did extensive infectious workup which showed bacteremia. We 
started you on antibiotics and your infection has cleared. You 
will continue on antibiotics as instructed for 6 weeks. You were 
also found to have presumed progressive fungal pneumonia. You 
will continue po antibiotics for this and follow up with ID as 
stated below. Please continue to take all of your medications as 
instructed.

Sincerely, 
Your ___ TEAM
 
Followup Instructions:
___